US04785017
A 2.2 g sample of racemic-3,4-dihydro-7-(phenylmethoxy)-2h-1-benzopyran-2-ol was condensed with (carbethoxymethylene)triphenylphosphorane (3.2 g) using the procedure of Example 30. There was obtained 2.6 g (92.8%) of racemic-3,4-dihydro-7-(phenylmethoxy)-2H-1-benzopyran-2-acetic acid ethyl ester as a yellow oil, after column chromatographic purification. This material was hydrogenolyzed over 0.2 g of 10% palladium on carbon as described in Example 30. There was obtained 1.9 g of racemic-3,4-dihydro-7-hydroxy-2H-1-benzopyran-2-acetic acid ethyl ester as a pale-yellow oil.

reactant | racemic-3,4-dihydro-7-(phenylmethoxy)-2h-1-benzopyran-2-ol | C1(=CC=CC=C1)COC1=CC2=C(CCC(O2)O)C=C1 | C16H16O3
reactant | (carbethoxymethylene)triphenylphosphorane | 3.2 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
product | racemic-3,4-dihydro-7-(phenylmethoxy)-2H-1-benzopyran-2-acetic acid ethyl ester | 2.6 g, 92.8% | C(C)OC(CC1OC2=C(CC1)C=CC(=C2)OCC2=CC=CC=C2)=O | C20H22O4
